US07514448B2
Methyl 3-ethoxyphenylacetate:
Methyl 3-hydroxyphenylacetate (6.4 g, 38.5 mmol) was dissolved in acetone (50 mL). Ethyl bromide (3.5 mL, 46.9 mmol) was added, followed by potassium carbonate (6.37 g, 46 mmol). The reaction was heated to reflux. After 24 hours, more ethyl bromide (3.55 mL, 46.9 mmol) was added and the reaction refluxed for a further 24 hours. The mixture was cooled, filtered and rotary evaporated. The product was dissolved in ethyl acetate and the solution washed with saturated sodium bicarbonate (2×50 mL) and brine, and dried (MgSO4). Removal of solvent revealed methyl 3-ethoxyphenylacetate as an oil that crystallized upon standing. 1H NMR (500 MHz, CDCl3) δ 7.25 (1H, dd), 6.87 (3H, m), 4.08 (2H, q), 3.73 (3H, s), 3.65 (2H, s), 1.45 (3H, t).

reactant | Methyl 3-hydroxyphenylacetate | 38.5 mmol, 6.4 g | OC=1C=C(C=CC1)CC(=O)OC | C9H10O3
reactant | Ethyl bromide | 46.9 mmol, 3.5 mL | C(C)Br | C2H5Br
reactant | potassium carbonate | 46 mmol, 6.37 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromide | 46.9 mmol, 3.55 mL | C(C)Br | C2H5Br
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | Methyl 3-ethoxyphenylacetate | C(C)OC=1C=C(C=CC1)CC(=O)OC | C11H14O3
